US04874773
Preparation of acetoacetic cyclopropylamide:
Cyclopropylamine (42.2 g, 0.74 mole) is dissolved in chloroform (300 ml) and thereto is added dropwise diketene (62.1 g, 0.74 mole) over a period of 1-1.5 hour with stirring in an ice bath. After the addition, the mixture is stirred at 40° C. for one hour, and the solvent is distilled off under reduced pressure, and the residue is recrystallized from benzene-n-hexane to give the title compound (83.4 g, yield 80%) as colorless needles, m.p. 65°-66° C.

reactant | Cyclopropylamine | 0.74 mole, 42.2 g | C1(CC1)N | C3H7N
reactant | diketene | 0.74 mole, 62.1 g | C=C1CC(=O)O1 | C4H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | acetoacetic cyclopropylamide | 83.4 g, yield 80% | C1(CC1)NC(CC(=O)C)=O | C7H11NO2
